US04652553
Step B: Cholest-5-en-3β-yl 6-(p-toluenesulfonyloxy)hexyl ether
A solution of cholest-5-en-3β-yl 6-hydroxyhexyl ether (32 g, 66 mmol) in dry benzene (1.3 L) was treated with p-toluenesulfonic anhydride (24 g, 72.6 mmol) and 2,4,6-trimethylpyridine (11.6 ml, 8.8 g, 72 mmol), and stirred at room temperature under a dry nitrogen atmosphere for 1 hour. The mixture was filtered through a pad of Florisil and concentrated to a waxy solid (33 g, 77%).

reactant | cholest-5-en-3β-yl 6-hydroxyhexyl ether | 66 mmol, 32 g | OCCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C33H58O2
reactant | p-toluenesulfonic anhydride | 72.6 mmol, 24 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | 2,4,6-trimethylpyridine | 72 mmol, 11.6 ml, 8.8 g | CC1=NC(=CC(=C1)C)C | C8H11N
solvent | benzene | 1.3 L | C1=CC=CC=C1 | C6H6
product | Cholest-5-en-3β-yl 6-(p-toluenesulfonyloxy)hexyl ether | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C40H64O4S
